US07465744B2
1-(2-{3-[(4-Methyl-5-phenyl-4H-1,2,4-triazol-3-yl)thio]propyl}-2,3-dihydro-1H-isoindol-5-yl)propan-1-one hydrochloride
The title compound was prepared in analogy to method 1.5 from 4-methyl-5-phenyl-4H-1,2,4-triazole-3-thiol (1.43 mmol, 0.33 g) and 1-[2-(3-chloropropyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one (1.43 mmol, 0.36 g; preparation in analogy to 1.4 from isoindoline as disclosed in WO 0125200). Yield: 0.24 g.

reactant | 4-methyl-5-phenyl-4H-1,2,4-triazole-3-thiol | 1.43 mmol, 0.33 g | CN1C(=NN=C1C1=CC=CC=C1)S | C9H9N3S
reactant | 1-[2-(3-chloropropyl)-2,3-dihydro-1H-isoindol-5-yl]propan-1-one | 1.43 mmol, 0.36 g | ClCCCN1CC2=CC=C(C=C2C1)C(CC)=O | C14H18ClNO
product | 1-(2-{3-[(4-Methyl-5-phenyl-4H-1,2,4-triazol-3-yl)thio]propyl}-2,3-dihydro-1H-isoindol-5-yl)propan-1-one hydrochloride | Cl.CN1C(=NN=C1C1=CC=CC=C1)SCCCN1CC2=CC=C(C=C2C1)C(CC)=O | InChI=1S/C23H26N4OS.ClH/c1-3-21(28)18-10-11-19-15-27(16-20(19)14-18)12-7-13-29-23-25-24-22(26(23)2)17-8-5-4-6-9-17;/h4-6,8-11,14H,3,7,12-13,15-16H2,1-2H3;1H
